US04316906
3.05 g. (0.019 mole) of (trans)-3-methylthio-D,L-proline is dissolved in 19 ml. of 1 N sodium carbonate and diluted with 10 ml. of water. The solution is cooled in an ice-bath and while stirring rapidly a solution of 3-acetylthiopropionyl chloride in 20 ml. of ether is added. The pH is maintained at 8 by adding 1 N sodium carbonate. At the end of 30 minutes the pH is holding constant and 45 ml. of sodium carbonate solution had been added. The layers are separated and the aqueous layer is washed once with ether. The aqueous layer is then acidified with 10% potassium bisulfate solution and the product is extracted into ethyl acetate, dried and freed of solvent in vacuo to give 5.2 g. of oil. The material is chromatographed on 150 g. silica gel using ethyl acetate for elution. 3.85 g. of somewhat crude (trans)-1-[3-(acetylthio)-1-oxopropyl]-3-methylthio-D,L-proline are obtained.

reactant | (trans)-3-methylthio-D,L-proline | 0.019 mole | C[C@H]1[C@@H](NCC1)C(=S)O | C6H11NOS
reactant | sodium carbonate | 1 N | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
reactant | 3-acetylthiopropionyl chloride | C(C)(=O)CCC(=S)Cl | C5H7ClOS
reactant | sodium carbonate | 1 N | C([O-])([O-])=O.[Na+].[Na+]
reactant | ether | CCOCC | C4H10O
product | (trans)-1-[3-(acetylthio)-1-oxopropyl]-3-methylthio-D,L-proline | C(C)(=O)SCCC(=O)N1[C@@H](C(=S)O)[C@@H](CC1)C | C11H17NO3S2
